US07700368B2
THC=1.0% w/w
Material slowly decarboxylates in solution Δ9 THCA→Δ9 THC+CO2

reactant | THCA | C[C@H](CCCC(C)C(=O)O)[C@H]1CC[C@@H]2[C@@]1([C@H](C[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)O)C | C27H46O5
reactant | THC CO2 | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O.C(=O)=O
product | THC | CCCCCC=1C=C(C2=C(C1)OC([C@H]3[C@H]2C=C(CC3)C)(C)C)O | C21H30O2
